US07253165B2
Synthesis of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole (Scheme III, Compound 7)
To a cold (0° C.) solution of sodium hydride (1.80 g, 45.0 mmol) in dimethylformamide (anhydrous,40 mL) and under a nitrogen atmosphere, add dropwise a solution of 3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenol (10 g, 43.63 mmol) in dimethylformamide (anhydrous, 50 mL). Precipitate forms. Cool (0° C.) reaction mixture for 20 minutes and the material solidifies. Add dimethylformamide (anhydrous, 120 mL) and (2R)-(−)-glycidyl tosylate (10.47 g, 45.87 mmol) dissolved in dimethylformamide (40 mL), dropwise, over a period of time of 0.5 hours, while cooling with an ice bath. After this addition, the reaction mixture becomes homogeneous. Warm reaction mixture to room temperature and stir overnight. Pour reaction mixture into cold water (600 mL), stir for 1 hour under an ice bath, filter and wash the filter cake with water to obtain an off-white solid. Add dichloromethane (200 mL) to the off-white solid, wash with saturated sodium chloride and dry (MgSO4). Directly purify by column (silica) chromatography (dichloromethane) and triturate with pentane to give the title compound as an off-white solid (9.70 g, 78% Yield). MS shows [M+H]+=286. NMR and microanalysis (C, H, N) are consistent with the final, desired compound. mp=132-133° C.

reactant | sodium hydride | 45.0 mmol, 1.80 g | [H-].[Na+]
reactant | 3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenol | 43.63 mmol, 10 g | FC1=CC2=C(C(=NO2)C=2C=C(C=CC2)O)C=C1 | C13H8FNO2
reactant | (2R)-(−)-glycidyl tosylate | 45.87 mmol, 10.47 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
reactant | water | 600 mL | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | 9.70 g, 78% Yield | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
